### PR TITLE
a few more data structure lemmas

### PR DESCRIPTION
**Pull request by cdisselkoen**
feel free to suggest improvements to the proofs

### CODE REVIEW

**Comment by cdisselkoen** [comment]
Whoops there's still a sorry here, let me fix

**Comment by cdisselkoen** [comment]
Fixed

**Review by emina — APPROVED** [review]
Looks good to me!

File: cedar-lean/Cedar/Thm/Data/Set.lean [hunk 1]
```diff
@@ -280,6 +305,62 @@ theorem inter_wf {α} [LT α] [StrictLT α] [DecidableLT α] [DecidableEq α] {s
...
+  apply h₁ h₂
+
+/--
+  Like `List.subset_def`, but lifted to Sets
+-/
+theorem subset_def [DecidableEq α] {s₁ s₂ : Set α} :
+  s₁ ⊆ s₂ ↔ ∀ a, a ∈ s₁ → a ∈ s₂
+:= by
+  unfold HasSubset.Subset instHasSubsetSet subset
+  simp
```
Comment (andrewmwells-amazon) [inline cedar-lean/Cedar/Thm/Data/Set.lean:338]: Can you do `simp?` and replace this with the output?

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 2]
```diff
@@ -118,6 +118,67 @@ theorem filterMap_equiv (f : α → Option β) (xs ys : List α) :
...
+    replace ⟨x, h₁, h₃⟩ := h₁
+    specialize h₂ x h₁
+    simp [h₂, Option.isSome] at h₃
+
+theorem f_implies_g_then_subset {f g : α → Option β} {xs : List α} :
+  (∀ a b, f a = some b → g a = some b) →
+  xs.filterMap f ⊆ xs.filterMap g
+:= by
+  intro h₁
+  simp [List.subset_def]
```
Comment (andrewmwells-amazon) [inline cedar-lean/Cedar/Thm/Data/List.lean:176]: can this be `simp only`?

**Review by andrewmwells-amazon — APPROVED** [review]

File: cedar-lean/Cedar/Thm/Data/Set.lean (hunk 1 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Data/Set.lean:338]: I started doing a pass for this in the 3 files touched by this PR, and it's a lot of manual work.  It seems like it could be automated.  Or even rethought: In the event that a Lean upgrade adding something to `simp` breaks a proof, would there be some way to then specifically change to `simp only` just in that place, rather than having to proactively do it everywhere (and also clutter proofs visually)?  It would be awesome if, e.g., in Lean 4.6 we could run some command like `simp4.5?` that would tell us "here's what lemmas `simp` would have used, in Lean 4.5"

Comment (andrewmwells-amazon) [reply cedar-lean/Cedar/Thm/Data/Set.lean:338]: Seems reasonable to keep separate from this PR then.

I don't think Lean wants to be in the business of managing different versions, but what should work would be to flag the proofs that fail, revert to the previous Lean version, use `simp?` on just those proofs and then do the upgrade. Seems like a nice feature.
